US06974870B2
Synthesis of 3-amino-4-(1-hydroxy-ethyl)-6-methyl-thieno[2,3-b]pyridine-2-carboxylic acid amide
A spatula tip full of NaBH4 was added to a solution of 9.9 mg 4-acetyl-3-amino-6-methyl-thieno[2,3-b]pyridine-2-carboxylic acid amide in 1 mL MeOH. After 0.5 h, the reaction was concentrated in vacuo, quenched with aqueous NH4Cl, extracted 4 times into EtOAc, concentrated in vacuo, dissolved in MeOH—CH2Cl2, filtered, concentrated and dried in vacuo at 60° C. to provide 8.1 mg of the title compound as a beige solid.

reactant | NaBH4 | [BH4-].[Na+]
reactant | 4-acetyl-3-amino-6-methyl-thieno[2,3-b]pyridine-2-carboxylic acid amide | 9.9 mg | C(C)(=O)C1=C2C(=NC(=C1)C)SC(=C2N)C(=O)N | C11H11N3O2S
solvent | MeOH | 1 mL | CO | CH4O
product | 3-amino-4-(1-hydroxy-ethyl)-6-methyl-thieno[2,3-b]pyridine-2-carboxylic acid amide | 8.1 mg | NC1=C(SC2=NC(=CC(=C21)C(C)O)C)C(=O)N | C11H13N3O2S
